US06346527B1
To a mixture of methyl 2,3-dihydro-9-[2-(tert-butoxycarbonylamino)ethylaminocarbonyl]-1-benzoxepin-4-carboxylate (1.1 g) and guanidine hydrochloride (1.3 g) in N,N-dimethylformamide (11 ml) was added 28% sodium methoxide in methanol (2.6 ml). The reaction mixture was stirred for 8 hours at ambient temperature, and the mixture was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo to give {2,3-dihydro-9-[2-(tert-butoxycarbonylamino)ethylaminocarbonyl]-1-benzoxepin-4-carbonyl}guanidine (0.9 g) as an oil.

reactant | methyl 2,3-dihydro-9-[2-(tert-butoxycarbonylamino)ethylaminocarbonyl]-1-benzoxepin-4-carboxylate | 1.1 g | C(C)(C)(C)OC(=O)NCCNC(=O)C1=CC=CC=2C=C(CCOC21)C(=O)OC | C20H26N2O6
reactant | guanidine hydrochloride | 1.3 g | Cl.NC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
solvent | methanol | 2.6 ml | CO | CH4O
solvent | water | O | H2O
product | {2,3-dihydro-9-[2-(tert-butoxycarbonylamino)ethylaminocarbonyl]-1-benzoxepin-4-carbonyl}guanidine | 0.9 g | C(C)(C)(C)OC(=O)NCCNC(=O)C1=CC=CC=2C=C(CCOC21)C(=O)NC(=N)N | C20H27N5O5
